US09024041B2
Intermediate A25: 3-tert-Butyl-1-(3,5-dimethoxyphenyl)-1H-pyrazol-5-amine
To a solution of 4,4-dimethyl-3-oxopentanenitrile (754 mg, 6.02 mmol) and conc hydrochloric acid (12 M, 500 μL, 6.0 mmol) in EtOH (25 mL) was added 3,5-dimethoxyphenylhydrazine hydrochloride (1.12 g, 5.47 mmol) and the reaction mixture heated at reflux for 1 hr and then cooled to RT. After 23 hr the reaction mixture was diluted with saturated aq. NaHCO3 (50 mL) then extracted with DCM (4×50 mL). The combined organic extracts were dried and evaporated in vacuo and the residue was purified by flash column chromatography (SiO2, 40 g, EtOAc in isohexane, 0-100%, gradient elution) and then by SCX capture and release to afford the title compound, Intermediate A25, as a dark orange solid (400 mg, 26%); Rt 1.70 min (Method 2); m/z 276 (M+H)+, (ES+).

reactant | 4,4-dimethyl-3-oxopentanenitrile | 6.02 mmol, 754 mg | CC(C(CC#N)=O)(C)C | C7H11NO
reactant | hydrochloric acid | 6.0 mmol, 12 M, 500 μL | Cl | ClH
reactant | 3,5-dimethoxyphenylhydrazine hydrochloride | 5.47 mmol, 1.12 g | Cl.COC=1C=C(C=C(C1)OC)NN
solvent | EtOH | 25 mL | CCO | C2H6O
solvent | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
product | 3-tert-Butyl-1-(3,5-dimethoxyphenyl)-1H-pyrazol-5-amine | C(C)(C)(C)C1=NN(C(=C1)N)C1=CC(=CC(=C1)OC)OC | C15H21N3O2
